US05985872
N-[6-[[[(1,1-dimethylethoxy)carbonyl]amino]methyl]-5-methyl-4-oxo-4H-3,1-benzoxazin-2-yl]-L-alanine, dimethylamide;
N-[6-[[[(1,1-dimethylethoxy)carbonyl]amino]methyl]-5-methyl-4-oxo-4H-3,1-benzoxazin-2-yl]-O-methyl-L-tyrosine, morpholineamide;

reactant | N-[6-[[[(1,1-dimethylethoxy)carbonyl]amino]methyl]-5-methyl-4-oxo-4H-3,1-benzoxazin-2-yl]-O-methyl-L-tyrosine | CC(C)(OC(=O)NCC=1C=CC2=C(C(OC(=N2)N[C@@H](CC2=CC=C(C=C2)OC)C(=O)O)=O)C1C)C | C25H29N3O7
reactant | morpholineamide | N1(CCOCC1)C(=O)N | C5H10N2O2
product | N-[6-[[[(1,1-dimethylethoxy)carbonyl]amino]methyl]-5-methyl-4-oxo-4H-3,1-benzoxazin-2-yl]-L-alanine, dimethylamide | CN(C([C@@H](NC1=NC2=C(C(O1)=O)C(=C(C=C2)CNC(=O)OC(C)(C)C)C)C)=O)C | C20H28N4O5
